* LV1-2 Resistor Ladder
*       --- Operating Point ---
*V(n004):	 -6	 voltage
*V(n003):	 8.67362e-07	 voltage
*V(n001):	 6	 voltage
*V(n002):	 4	 voltage
*I(V1):	 -0.002	 device_current
*I(R2):	 -0.002	 device_current
*I(R3):	 -0.002	 device_current
*I(R1):	 -0.002	 device_current
V1 N1 0 DC 12
R1 N1 N2 1k
R2 N2 N3 2k
R3 N3 0 3k
.OP
.END