* LV1-3 Current Source Injection
*       --- Operating Point ---
*V(n001):	 0	 voltage
*V(n002):	 -2	 voltage
*I(I1):	 0.002	 device_current
*I(R1):	 0.002	 device_current

I1 N1 0 DC 2m
R1 N1 0 1k
.OP
.END