* LV1-4 Mixed Voltage and Current Sources
* --- Operating Point ---
*V(n002):	 -1	 voltage
*V(p001):	 4	 voltage
*V(n001):	 0	 voltage
*I(V1):	 -0.002	 device_current
*I(R2):	 -0.001	 device_current
*I(I1):	 0.001	 device_current
*I(R1):	 -0.002	 device_current
V1 N1 0 DC 5
I1 N2 0 DC 1m
R1 N1 N2 2k
R2 N2 0 1k
.OP
.END