* LV2-1 Two Voltage Sources
*       --- Operating Point ---
*V(n001):	 -3	 voltage
*V(p001):	 7	 voltage
*V(n002):	 4.33681e-07	 voltage
*I(V1):	 -0.007	 device_current
*I(R2):	 -0.0015	 device_current
*I(R1):	 -0.007	 device_current
*I(V2):	 0.0055	 device_current
V1 N1 0 DC 10
V2 N2 0 DC 3
R1 N1 N2 1k
R2 N2 0 2k
.OP
.END